US07635715B2
Step E: Preparation of Ethyl 6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
To diethyl 2-(2-(4-chloro-2-fluorophenyl)-2-methylpropanoyl)malonate (2.20 g, 6.1 mmol), was added P2O5 (3.5 g, 25 mmol) in H2SO4 (3.3 mL) at 0° C. The reaction was then allowed to warm to ambient temperature and stirred for 1 hour. The reaction mixture was poured into ice, diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 75 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (0.75 g) which was used without further purification. MS (m/z)=313 (M+H)+.

reactant | diethyl 2-(2-(4-chloro-2-fluorophenyl)-2-methylpropanoyl)malonate | 6.1 mmol, 2.20 g | ClC1=CC(=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C)F | C17H20ClFO5
reactant | P2O5 | 25 mmol, 3.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | H2SO4 | 3.3 mL | OS(=O)(=O)O | H2O4S
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 6-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.75 g | ClC=1C=C2C(=C(C(C(C2=C(C1)F)(C)C)=O)C(=O)OCC)O | C15H14ClFO4
